US05795984
According to the same manner as in Example 5, except that 171.6 g of water and 171.6 g of toluene were used in place of 78.9 g of water and 315.5 g of tetrahydrofuran, and that 4-chloroanthranilic acid was used in place of 4,5-dimethoxyanthranilic acid, 80.9 g of 7 -chloroisatoic anhydride (purity: 91 %) was obtained.

reactant | water | 171.6 g | O | H2O
reactant | toluene | 171.6 g | C1(=CC=CC=C1)C | C7H8
reactant | water | 78.9 g | O | H2O
reactant | 4-chloroanthranilic acid | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
solvent | tetrahydrofuran | 315.5 g | O1CCCC1 | C4H8O
product | 7 -chloroisatoic anhydride | 80.9 g, yield was 93% | C1=CC2=C(C=C1Cl)NC(=O)OC2=O | C8H4ClNO3
